US09102642B2
To a mixture of 2-(4-hydroxy-2,6-dimethylphenyl)cyclohexane-1,3-dione (0.200 g, 0.0009 mol), 2,6-dichloroquinoline (0.170 g, 0.0009 mol) and potassium carbonate (0.350 g, 0.0025 mol) is added N,N-dimethylformamide (3 ml), and the mixture is heated at 140° C. for 40 minutes under microwave irradiation. The reaction mixture is then diluted with ethyl acetate (20 ml) and 2M hydrochloric acid (20 ml), and the organic phase is separated, dried over magnesium sulfate and evaporated under reduced pressure. The crude product is purified by preparative reverse phase HPLC to afford 2-[4-(6-chloroquinolin-3-yloxy)-2,6-dimethylphenyl]cyclohexane-1,3-dione as a cream solid.

reactant | 2-(4-hydroxy-2,6-dimethylphenyl)cyclohexane-1,3-dione | 0.0009 mol, 0.200 g | OC1=CC(=C(C(=C1)C)C1C(CCCC1=O)=O)C | C14H16O3
reactant | 2,6-dichloroquinoline | 0.0009 mol, 0.170 g | ClC1=NC2=CC=C(C=C2C=C1)Cl | C9H5Cl2N
reactant | potassium carbonate | 0.0025 mol, 0.350 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 2M, 20 ml | Cl | ClH
product | 2-[4-(6-chloroquinolin-3-yloxy)-2,6-dimethylphenyl]cyclohexane-1,3-dione | ClC=1C=C2C=C(C=NC2=CC1)OC1=CC(=C(C(=C1)C)C1C(CCCC1=O)=O)C | C23H20ClNO3
